US08008327B2
Synthesis of 1-(4-Fluorophenyl)-1H-indazole-4-carboxylic acid 3-trifluoromethyl-benzylamide (1)
A mixture of 1H-indazole-4-carboxylic acid 3-trifluoromethyl-benzylamide (1.1 g, 3.4 mmol), copper(I) iodide (0.005 g, 0.02 mmol), potassium carbonate (0.04 g, 0.3 mmol) and 4-fluoroiodobenzene (0.04 g, 0.2 mmol) were charged in a sealed tube at room temperature. The tube was evacuated and back-filled with argon. The solids were dissolved in DMF (6 mL) and the resultant solution was treated with rac-trans-N,N′-dimethylcyclohexane-1,2-diamine (0.005 g, 0.04 mmol). The solution was stirred at 120° C. for 3 hours and cooled to room temperature. The solution was diluted with water (15 mL) and ethyl acetate (30 mL). The organic layer was separated, washed with brine and dried over sodium sulfate. The solvent was removed in vacuo. The crude residue was purified by silica gel chromatography eluting with a gradient of 10-40% ethyl acetate in hexanes to afford the title compound.

reactant | 1H-indazole-4-carboxylic acid 3-trifluoromethyl-benzylamide | 3.4 mmol, 1.1 g | FC(C=1C=C(CNC(=O)C=2C=3C=NNC3C=CC2)C=CC1)(F)F | C16H12F3N3O
reactant | potassium carbonate | 0.3 mmol, 0.04 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-fluoroiodobenzene | 0.2 mmol, 0.04 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | rac-trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.04 mmol, 0.005 g | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
solvent | water | 15 mL | O | H2O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper(I) iodide | 0.02 mmol, 0.005 g | [Cu]I
product | 1-(4-Fluorophenyl)-1H-indazole-4-carboxylic acid 3-trifluoromethyl-benzylamide | FC(C=1C=C(CNC(=O)C=2C=3C=NN(C3C=CC2)C2=CC=C(C=C2)F)C=CC1)(F)F | C22H15F4N3O
